US05831004
A. Methyl-2-n-Heptyl Acetoacetate (α, R=n-heptyl)
Methyl acetoacetate (20.00 g, 172.2 mmol) was treated with sodium methoxide (NaOMe)/MeOH (freshly prepared by dissolving 4.00 g sodium in 200 mL anhydrous MeOH at 0° C.) at room temperature for 20 minutes. n-Heptyl bromide (24.60 mL, 156.6 mmol, 0.9 equiv.) was added and the solution was refluxed for 24 hours. Methanol was evaporated and the residue was treated with 5% hydrogen sulfate (H2SO4) (100 mL) in acetone (200 mL) at room temperature for 2 hours. Acetone was evaporated and the aqueous layer was extracted with ether (400 mL). The ether extract was then quickly washed with 1N NaOH (100 mL×3), water (100 mL×2), and brine (100 mL×1), and dried over MgSO4. Evaporation of the solvents yielded 33.56 g (78%) crude product as an oil. Rf =0.6 (10% ether/petroleum ether). 1H NMR (400 MHz, CDCl3) δ0.88 (3H, t, J=6.7 Hz), 1.20-1.45 (10H, br m), 1.78-1.91 (2H, m), 2.22 (3H, s), 3.42 (1H, t, J=7.4 Hz), 3.73 (3H, s).

reactant | Methyl acetoacetate | 172.2 mmol, 20.00 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 4.00 g | [Na] | Na
reactant | n-Heptyl bromide | 156.6 mmol, 24.60 mL, 0.9 equiv. | C(CCCCCC)Br | C7H15Br
solvent | MeOH | 200 mL | CO | CH4O
product | Methyl-2-n-Heptyl Acetoacetate | 33.56 g, 78% | C(CC(=O)C)(=O)OC(CC)CCCCC | C12H22O3
